US05344843
A mixture of alpha-oxo-4-[[2-[3-(phenylmethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid methyl ester (0.456 g) in tetrahydrofuran (3 mL) was added to a flask containing 10% palladium on carbon catalyst and 5 mL of tetrahydrofuran in a hydrogen atmosphere. The mixture was stirred until one equivalent of hydrogen was absorbed and the reaction was filtered and the organic solvent was removed by evaporation. Chromatography on silica gel and elution with dichloromethane-hexane mixtures provided purified product. Crystallization from dichloromethane-diethyl ether gave 0.067 g of pure 4-[[2-(3-hydroxy-2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid methyl ester as a colorless solid, mp 177°-178° C.

reactant | alpha-oxo-4-[[2-[3-(phenylmethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid methyl ester | 0.456 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1OCC1=CC=CC=C1)=O)=O | C28H24O6
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | one equivalent | [H][H] | H2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[[2-(3-hydroxy-2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid methyl ester | 0.067 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1O)=O)=O | C21H18O6
